US08802711B2
3-phenylcyclobutanone oxime
A yellow slurry of 3-phenylcyclobutanone (1.09 g, 7.44 mmol), MeOH (33.8 mL), water (3.38 mL), potassium carbonate (2.26 g, 16.4 mmol), and hydroxylamine hydrochloride (1.14 g, 16.4 mmol) was heated at 50° C. for 14 hours. The mixture was diluted with EtOAc (50 mL), washed with water (10 mL) and brine (10 mL), dried (Na2SO4), and concentrated. The residue was purified by flash column chromatography (0-50% EtOAc/hexanes, gradient elution) to provide the title compound (947 mg, 5.87 mmol, 79% yield). MS (DCI) M/Z 162 [M+H]+.

reactant | 3-phenylcyclobutanone | 7.44 mmol, 1.09 g | C1(=CC=CC=C1)C1CC(C1)=O | C10H10O
reactant | MeOH | 33.8 mL | CO | CH4O
reactant | potassium carbonate | 16.4 mmol, 2.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 16.4 mmol, 1.14 g | Cl.NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 3.38 mL | O | H2O
product | 3-phenylcyclobutanone oxime | 5.87 mmol, 947 mg, 79% yield | C1(=CC=CC=C1)C1CC(C1)=NO | C10H11NO
